US09260408B2
[A] (R, E)-N-(1-(5-Bromopyridin-3-yl)ethylidene)-2-methylpropane-2-sulfinamide
To a solution of 1-(5-bromopyridin-3-yl)ethanone (1.01 g, 5.04 mmol) in DCM (20 mL) was added (R)-2-methylpropane-2-sulfinamide (0.555 g, 4.58 mmol) followed by Ti(OEt)4 (1.23 g, 4.58 mmol) dropwise and the reaction mixture was heated to 40° C. over night. After cooling, the solvent was removed under vacuum and the residue taken up in EtOAc (80 mL). This solution was vigorously stirred while a saturated solution of brine (20 mL) was slowly added. After 15 min, the mixture was filtered through a plug of Dicalite and washed with EtOAc. The organic phase was separated, dried over Na2SO4 and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 50% EtOAc-heptane gradient to give the title compound (0.964 g, 69%) as a yellow oil. MS: 303.1 and 305.0 (M+H+).

reactant | 1-(5-bromopyridin-3-yl)ethanone | 5.04 mmol, 1.01 g | BrC=1C=C(C=NC1)C(C)=O | C7H6BrNO
reactant | (R)-2-methylpropane-2-sulfinamide | 4.58 mmol, 0.555 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R, E)-N-(1-(5-Bromopyridin-3-yl)ethylidene)-2-methylpropane-2-sulfinamide | 0.964 g, 69% | BrC=1C=C(C=NC1)\C(\C)=N\[S@](=O)C(C)(C)C | C11H15BrN2OS
